US08975406B2
Tin chloride (90 g, 400 mmol) was added to a solution of 5-bromo-3-nitropicolinonitrile (17 g, 74 mmol) in methanol (800 mL) and the reaction was heated to 40° C. for 4.75 h. The solvent was removed in vacuo and toluene added and removed in vacuo. The crude was suspended in EtOAc and the mixture basified to pH 8 with saturated NaHCO3 (aq). The organic layer was separated and the aqueous slurry extracted with CHCl3 (×3). The combined organics were filtered through Celite, dried (MgSO4) and concentrated in vacuo to give crude 3-amino-5-bromopyridine-2-carboxamide which was used directly without further purification.

reactant | Tin chloride | 400 mmol, 90 g | [Sn](Cl)(Cl)(Cl)Cl
reactant | 5-bromo-3-nitropicolinonitrile | 74 mmol, 17 g | BrC=1C=C(C(=NC1)C#N)[N+](=O)[O-] | C6H2BrN3O2
reactant | methanol | 800 mL | CO | CH4O
product | 3-amino-5-bromopyridine-2-carboxamide | NC=1C(=NC=C(C1)Br)C(=O)N | C6H6BrN3O
